### PR TITLE
[Merged by Bors] - feat(RingTheory/Algebraic): add natDenominator API

### PR DESCRIPTION
**Pull request by mkaratarakis**
Add `Algebra.denominator` and `Algebra.natDenominator`. For an element `x` of an `R`-algebra `S` with `R` a principal ideal ring, the denominator is a generator of the colon ideal, i.e. of the ideal of scalars `r : R` with `r • x` integral over `R`; over `ℤ`, its absolute value is the natural-number denominator.

Part of the Gelfond–Schneider formalization. This PR is self-contained and is itself a prerequisite of the rest of the series.

I use Claude code for merging `master` into the branch and for fixing build errors and for moving content around multiple files and for the docstrings. The original formalization was not LLM generated.

### CODE REVIEW

File: Mathlib/RingTheory/Algebraic/NatDenominator.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+## Main definitions
+
+* `AlgebraicDenominator.denominator`: the denominator in a principal ideal ring
+* `AlgebraicDenominator.natDenominator`: the natural-number denominator over `ℤ`
+-/
+
+@[expose] public section
+
+namespace AlgebraicDenominator
```
Comment (tb65536) [inline Mathlib/RingTheory/Algebraic/NatDenominator.lean]: Maybe `IsAlgebraic` would be a more suitable namespace?

**Comment by faenuccio** [comment]
@mkaratarakis  Can you please merge `master`? This will help with the recent changes in handling cache, see 
https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Announcement.3A.20lake.20exe.20cache.20changes.20for.20forks.20and.20PRs/with/603490680

**Comment by mkaratarakis** [comment]
> @mkaratarakis Can you please merge `master`? This will help with the recent changes in handling cache, see https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Announcement.3A.20lake.20exe.20cache.20changes.20for.20forks.20and.20PRs/with/603490680

Done. Thanks

File: Mathlib/RingTheory/Algebraic/NatDenominator.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+-/
+
+@[expose] public section
+
+namespace IsAlgebraic
+
+variable (R : Type*) [CommRing R] [IsPrincipalIdealRing R] {S : Type*} [CommRing S] [Algebra R S]
+
+/-- The denominator of an algebraic element. -/
+noncomputable def denominator (x : S) : R :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/NatDenominator.lean]: You don't seem to need `x` to be algebraic here. By the way, I'm not sure about why  should this file live in the `Algebraic` folder.

File: Mathlib/RingTheory/Algebraic/NatDenominator.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+`(integralClosure R S).colon {x}`. When `R = ℤ`, its absolute value is the natural-number
+denominator `natDenominator x`.
+
+## Main definitions
+
+* `IsAlgebraic.denominator`: the denominator in a principal ideal ring
+* `IsAlgebraic.natDenominator`: the natural-number denominator over `ℤ`
+-/
+
+@[expose] public section
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/NatDenominator.lean]: The section should not be `expose`d, rather add a `rfl` lemma `denominator_def` .

File: Mathlib/RingTheory/Algebraic/NatDenominator.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+
+theorem denominator_dvd_iff {r : R} {x : S} :
+    denominator R x ∣ r ↔ IsIntegral R (r • x) := by
+  rw [denominator, ← Submodule.IsPrincipal.mem_iff_generator_dvd, Submodule.mem_colon_singleton,
+    Subalgebra.mem_toSubmodule, mem_integralClosure_iff]
+
+theorem isIntegral_denominator_smul (x : S) : IsIntegral R (denominator R x • x) :=
+  denominator_dvd_iff.mp dvd_rfl
+
+theorem denominator_ne_zero {x : S} (hx : IsAlgebraic R x) : denominator R x ≠ 0 := by
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/NatDenominator.lean]: Do you have an explicit counterexample where this fails if `x` is not algebraic over `R`? If yes, it might be worth noting it.

**Review by faenuccio — COMMENTED** [review]
Can you please update the PR description marking the "related"  PRs as dependencies that can be progressively ticked?

File: Mathlib/RingTheory/Algebraic/Denominator.lean [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+public section
+
+namespace Algebra
+
+variable (R : Type*) [CommRing R] [IsPrincipalIdealRing R] {S : Type*} [CommRing S] [Algebra R S]
+
+/-- The denominator of an element `x` of an `R`-algebra: a generator of the ideal of scalars
+`r : R` such that `r • x` is integral over `R`. It is nonzero as soon as `x` is algebraic over
+`R`; see `IsAlgebraic.denominator_ne_zero`. -/
+@[expose] noncomputable def denominator (x : S) : R :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/Denominator.lean]: You don't need to expose this (it would amount to the same as exposing the section...)

**Comment by mkaratarakis** [comment]
-awaiting-author

**Comment by faenuccio** [comment]
@mkaratarakis It seems to me, seeing your last commit, that you're using Claude to fix syntax and this has not been declared nor in the PR description nor have you added a `LLM`-generated tag to this PR. Can you provide some comment, especially in light of our guidelines
https://leanprover-community.github.io/contribute/index.html#use-of-ai
?
Thanks.

**Comment by mkaratarakis** [comment]
Hi Filippo, the original file is not LLM generated. However, I use Claude occasionally to merge master in different branches instead of doing it manually and waiting for cache, and for fixing build errors, for moving content around multiple files and the docstrings. In that commit, Claude reversed some of the changes after I asked it to fix a build error I thought it was unrelated to the file. I have updated the PR description accordingly but let me know if it's ok  and whether I should avoid using Claude altogether for these tasks.

**Comment by faenuccio** [comment]
> Hi Filippo, the original file is not LLM generated. However, I use Claude occasionally to merge master in different branches instead of doing it manually and waiting for cache, and for fixing build errors, for moving content around multiple files and the docstrings. In that commit, Claude reversed some of the changes after I asked it to fix a build error I thought it was unrelated to the file. I have updated the PR description accordingly but let me know if it's ok and whether I should avoid using Claude altogether for these tasks.

Well, the problem is that I had explicitely asked you to remove the @[exposed] attribute from the definition and Claude found it easier to add it again... You're free to use Claude (of course! It's your work, on your repo, on your PR...) but please mark it down because different reviewers/maintainers might have different takes on how to treat PRs that are AI-generated or AI-supported. This is to a large extent related to the "pedagogical" issue mentioned in the link I sent above.

**Comment by mkaratarakis** [comment]
OK, I understand. Thanks for the clarification

File: Mathlib/RingTheory/Algebraic/Denominator.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+Authors: Michail Karatarakis
+-/
+module
+
+public import Mathlib.Algebra.EuclideanDomain.Int
+public import Mathlib.RingTheory.Algebraic.Basic
+public import Mathlib.RingTheory.Algebraic.Integral
+public import Mathlib.RingTheory.Ideal.Colon
+public import Mathlib.RingTheory.IntegralClosure.Algebra.Basic
+public import Mathlib.RingTheory.PrincipalIdealDomain
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/Denominator.lean]:
```suggestion
public import Mathlib.RingTheory.Algebraic.Integral
public import Mathlib.RingTheory.Ideal.Colon
```
If you type `#min_imports` at the end of the file, the imports get minimised (but remove the comment afterwards, lest CI fails).

File: Mathlib/RingTheory/Algebraic/Denominator.lean [hunk 7]
```diff
@@ -0,0 +1,108 @@
...
+
+variable (R : Type*) [CommRing R] [IsPrincipalIdealRing R] {S : Type*} [CommRing S] [Algebra R S]
+
+/-- The denominator of an element `x` of an `R`-algebra: a generator of the ideal of scalars
+`r : R` such that `r • x` is integral over `R`. It is nonzero as soon as `x` is algebraic over
+`R`; see `IsAlgebraic.denominator_ne_zero`. -/
+noncomputable def denominator (x : S) : R :=
+  Submodule.IsPrincipal.generator ((integralClosure R S).toSubmodule.colon {x})
+
+-- `denominator` is not `@[expose]`, so term-mode `rfl` is rejected in this exported lemma.
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/Denominator.lean]: You can remove this comment

File: Mathlib/RingTheory/Algebraic/Denominator.lean [hunk 8]
```diff
@@ -0,0 +1,108 @@
...
+
+theorem denominator_dvd_iff {r : R} {x : S} :
+    denominator R x ∣ r ↔ IsIntegral R (r • x) := by
+  rw [denominator_def, ← Submodule.IsPrincipal.mem_iff_generator_dvd,
+    Submodule.mem_colon_singleton, Subalgebra.mem_toSubmodule, mem_integralClosure_iff]
+
+theorem isIntegral_denominator_smul (x : S) : IsIntegral R (denominator R x • x) :=
+  denominator_dvd_iff.mp dvd_rfl
+
+/-- The natural-number denominator of an element `x` of a ring: the absolute value of the
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/Denominator.lean]:
```suggestion
/-- The natural-number denominator of an element `x` of a ring: it is the absolute value of the
```

File: Mathlib/RingTheory/Algebraic/Denominator.lean [hunk 9]
```diff
@@ -0,0 +1,108 @@
...
+  rw [natDenominator_def, ← Int.ofNat_dvd_right, denominator_dvd_iff, natCast_zsmul]
+
+theorem isIntegral_natDenominator_smul (x : S) : IsIntegral ℤ (natDenominator x • x) :=
+  natDenominator_dvd_iff.mp dvd_rfl
+
+end Algebra
+
+namespace IsAlgebraic
+
+variable {R : Type*} [CommRing R] [IsPrincipalIdealRing R]
```
Comment (faenuccio) [inline Mathlib/RingTheory/Algebraic/Denominator.lean]: Can you reorganise the variables so that you don't need to repeat them? They're the same for both sections.

**Review by faenuccio — COMMENTED** [review]
I left some comments, thanks for looking at them without  any LLM.

**Comment by mkaratarakis** [comment]
-awaiting-author

**Comment by faenuccio** [comment]
thanks

bors r+
